US05519016
In 20 ml of ethyl alcohol was dissolved 5 g (0.027 mole) of 1-t-butoxycarbonyl-3-epoxypyrrolidine, and 12.6 g (0.135 mole) of aniline was added thereto. The mixture was refluxed by heating for 20 hours. After the mixture was cooled to room temperature, the solvent was removed under reduced pressure, and the residue was applied to silica gel column chromatography (the eluent used was a mixture of ethyl acetate : toluene = 1 : 4) to obtain 4.85 g of 1-t-butoxycarbonyl-3-hydroxy-4-phenylaminopyrrolidine as yellowish brown crystals.

reactant | 1-t-butoxycarbonyl-3-epoxypyrrolidine | 0.027 mole, 5 g | C(C)(C)(C)OC(=O)N1CC2C(C1)O2 | C9H15NO3
reactant | aniline | 0.135 mole, 12.6 g | NC1=CC=CC=C1 | C6H7N
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | 1-t-butoxycarbonyl-3-hydroxy-4-phenylaminopyrrolidine | 4.85 g | C(C)(C)(C)OC(=O)N1CC(C(C1)NC1=CC=CC=C1)O | C15H22N2O3
